US04153716
To a stirred mixture of 1.4 g. of sodium hydride in 150 ml. of ethanol is added 6 ml. of methyl mercaptan, then 6.6 g. (0.02 mole) of 5-bromomethyl-2-nitro-3-phenylbenzofuran. After four hours the mixture is poured into cold water, this mixture is extracted with diethyl ether, the extracts are washed with 5 percent sodium hydroxide solution, water and saturated sodium chloride solution, then dried. Evaporation provides yellow 5-methylthiomethyl-2-nitro-3-phenylbenzofuran. The structural assignment is supported by infrared spectral analysis.

reactant | sodium hydride | [H-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | methyl mercaptan | CS | CH4S
reactant | 5-bromomethyl-2-nitro-3-phenylbenzofuran | 0.02 mole | BrCC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C15H10BrNO3
solvent | water | O | H2O
product | 5-methylthiomethyl-2-nitro-3-phenylbenzofuran | CSCC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C16H13NO3S
